* single-supply unity-gain differential subtractor Vout = Vin2 - Vin1
VDD VDD 0 DC 5
V1 Vin1 0 DC 1
V2 Vin2 0 DC 3

R1 Vin1 Ninv 10k
R2 Vout Ninv 10k
R3 Vin2 Nnon 10k
R4 Nnon 0 10k

I1 Ntail 0 DC 200u
M1 Nd1 Nnon Ntail 0 NMOSL1 W=200u L=1u
M2 Vout Ninv Ntail 0 NMOSL1 W=200u L=1u
M3 Nd1 Nd1 VDD VDD PMOSL1 W=400u L=1u
M4 Vout Nd1 VDD VDD PMOSL1 W=400u L=1u

.model NMOSL1 NMOS LEVEL=1 VTO=0.7 KP=200u LAMBDA=0.02
.model PMOSL1 PMOS LEVEL=1 VTO=-0.7 KP=100u LAMBDA=0.02

.op
.end
